US06287646B1
A 176 g portion of 3,5-difluorobenzyl bromide was dissolved in 300 ml of THF to which was subsequently added dropwise 450 ml of allyl magnesium chloride THF solution (2 mol/l) at room temperature. This was stirred for 1 hour and then mixed with 300 ml of water. This was extracted with 800 ml of hexane, washed twice with saturated brine and then dried with anhydrous sodium sulfate. After evaporation of the solvent, the resulting residue was distilled (79-82° C./20 mmHg) to obtain 104 g of 3,5-difluoro-1-(3-butenyl)benzene.

reactant | 3,5-difluorobenzyl bromide | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
reactant | water | 300 ml | O | H2O
reactant | THF | 300 ml | C1CCOC1 | C4H8O
product | 3,5-difluoro-1-(3-butenyl)benzene | 104 g | FC=1C=C(C=C(C1)F)CCC=C | C10H10F2
